US07012089B2
3-Methyl-2,3,4,5,8b,9,10,11,12,12a-decahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole
To a solution of 3-methyl-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole (0.46 g, 1.8 mmole) in acetic acid (50 mL) was added sodium cyanoborohydride (0.30 g, 4.5 mmol) and the reaction mixture was stirred at room temperature for 1 hour. The solvent was removed in vacuo and the residue was diluted with ethyl acetate (300 mL) and washed with saturated aqueous sodium bicarbonate (150 mL) and saturated aqueous sodium chloride (150 mL), dried (sodium sulfate) and concentrated in vacuo. Purification by flash column chromatography (silica gel, ethyl acetate:hexanes 3:2) provided 0.30 g of the title compound as a light oil. 100 mg of this compound was treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 150-153° C. MS (ESI) m/z 257 ([M+H]+).

reactant | 3-methyl-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 1.8 mmole, 0.46 g | CN1CCN2C3=C(C=CC=C3C=3CCCCC23)CC1 | C17H22N2
reactant | sodium cyanoborohydride | 4.5 mmol, 0.30 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3-Methyl-2,3,4,5,8b,9,10,11,12,12a-decahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 0.30 g | CN1CCN2C3=C(C=CC=C3C3CCCCC23)CC1 | C17H24N2
